US08378104B2
Step A: 1,2,3-benzothiadiazole
To a mixture of 2-aminobenzenethiol (1.00 g, 7.99 mmol) in water (8 mL) was added aqueous 12 N hydrochloric acid (2 mL, 20 mmol) slowly at rt. Sodium nitrite (827 mg, 12.0 mmol) was then added slowly at rt. THF (4 mL) was added for solubility, and the reaction was stirred at rt for 30 min. The solution was neutralized with saturated aqueous potassium carbonate, and the material was extracted with DCM and saturated aqueous sodium bicarbonate. The organic layer was purified via column chromatography (1% EtOAc:heptane) to afford 850 mg (78%) of the title compound as an orange liquid. 1H NMR (400 MHz, CDCl3): δ 7.63-7.73 (m, 2 H), 8.12 (dt, J=8.3, 0.9 Hz, 1 H), 8.66 (dt, J=8.5, 0.9 Hz, 1 H).

reactant | 2-aminobenzenethiol | 7.99 mmol, 1.00 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | hydrochloric acid | 20 mmol, 12 N, 2 mL | Cl | ClH
reactant | Sodium nitrite | 12.0 mmol, 827 mg | N(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 8 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 1,2,3-benzothiadiazole | 850 mg, 78% | S1N=NC2=C1C=CC=C2 | C6H4N2S
